.title kicad schematic

.include NPN.lib
.include D.lib
.include PNP.lib
* u1 net-_q5-pad2_ net-_q1-pad2_ net-_q6-pad2_ net-_d9-pad2_ net-_q11-pad3_ net-_q11-pad1_ net-_d6-pad1_ net-_q10-pad2_ net-_i3-pad1_ gnd port
q8 net-_d6-pad1_ net-_d5-pad2_ net-_q8-pad3_ Q2N2907A
i5 net-_i5-pad1_ net-_d9-pad2_ 1m
q10 gnd net-_q10-pad2_ net-_i5-pad1_ Q2N2222
q9 net-_q8-pad3_ net-_i3-pad1_ net-_i5-pad1_ Q2N2222
r7 net-_q8-pad3_ gnd 100
r6 net-_d5-pad1_ gnd 100
d5 net-_d5-pad1_ net-_d5-pad2_ 1N4148
q1 net-_d1-pad1_ net-_q1-pad2_ gnd Q2N2907A
r3 net-_q2-pad2_ net-_d3-pad2_ 12k
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
d3 net-_d2-pad2_ net-_d3-pad2_ 1N4148
r2 net-_d2-pad1_ gnd 1k
q6 gnd net-_q6-pad2_ net-_i3-pad1_ Q2N2222
i4 net-_d5-pad2_ net-_d9-pad2_ 1m
i2 net-_i2-pad1_ net-_d9-pad2_ 1m
i3 net-_i3-pad1_ net-_d9-pad2_ 1m
q12 net-_q11-pad1_ net-_d6-pad1_ net-_q11-pad2_ Q2N2222
d6 net-_d6-pad1_ net-_d6-pad2_ 1N4148
d7 net-_d6-pad2_ net-_d7-pad2_ 1N4148
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
d8 net-_d7-pad2_ net-_d8-pad2_ 1N4148
d9 net-_d8-pad2_ net-_d9-pad2_ 1N4148
r5 net-_q4-pad1_ gnd 6.8k
q2 gnd net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q5 gnd net-_q5-pad2_ net-_q4-pad2_ Q2N2222
q7 net-_q6-pad2_ net-_d5-pad2_ net-_q4-pad1_ Q2N2907A
q4 net-_q4-pad1_ net-_q4-pad2_ net-_i2-pad1_ Q2N2222
q3 gnd net-_q2-pad3_ net-_i2-pad1_ Q2N2222
* u2 net-_d1-pad2_ gnd zener
* u3 net-_d1-pad1_ gnd zener
d4 net-_d4-pad1_ net-_d1-pad1_ 1N4148
r4 net-_d4-pad1_ net-_q2-pad2_ 12k
r1 net-_d9-pad2_ net-_d1-pad2_ 3k
i1 net-_d1-pad1_ net-_d9-pad2_ 1m
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
a1 net-_d1-pad2_ gnd u2
a2 net-_d1-pad1_ gnd u3
* Schematic Name:                             zener, Ngspice Name: zener
.model u2 zener(v_breakdown=5.7 i_breakdown=2.0e-3 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, Ngspice Name: zener
.model u3 zener(v_breakdown=5.7 i_breakdown=2.0e-3 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
