* Subcircuit MC1510_sub
.subckt MC1510_sub net-_q1-pad2_ net-_q4-pad1_ net-_q3-pad2_ unconnected-_u1-pad4_ net-_q9-pad3_ net-_r15-pad1_ net-_q8-pad3_ net-_r12-pad1_ 
.title kicad schematic
.include D.lib
.include NPN.lib
q5 net-_q4-pad1_ net-_q3-pad1_ net-_q5-pad3_ Q2N2222
q4 net-_q4-pad1_ net-_q1-pad1_ net-_q4-pad3_ Q2N2222
r8 net-_r12-pad1_ net-_q5-pad3_ 6.8k
r7 net-_r12-pad1_ net-_q4-pad3_ 6.8k
r6 net-_r1-pad2_ net-_q4-pad1_ 910
r13 net-_q7-pad3_ net-_r10-pad1_ 43
q7 net-_q7-pad1_ net-_q5-pad3_ net-_q7-pad3_ Q2N2222
r9 net-_q6-pad1_ net-_q4-pad1_ 750
r14 net-_q7-pad1_ net-_q4-pad1_ 750
r10 net-_r10-pad1_ net-_q6-pad3_ 43
q6 net-_q6-pad1_ net-_q4-pad3_ net-_q6-pad3_ Q2N2222
r11 net-_d1-pad1_ net-_r10-pad1_ 670
r12 net-_r12-pad1_ net-_d1-pad2_ 270
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
r15 net-_r15-pad1_ net-_q8-pad3_ 2.0k
q8 net-_q4-pad1_ net-_q6-pad1_ net-_q8-pad3_ Q2N2222
r16 net-_r15-pad1_ net-_q9-pad3_ 2.0k
q9 net-_q4-pad1_ net-_q7-pad1_ net-_q9-pad3_ Q2N2222
r4 net-_q2-pad1_ net-_q3-pad3_ 15
r3 net-_r12-pad1_ net-_q2-pad3_ 400
q2 net-_q2-pad1_ net-_d1-pad1_ net-_q2-pad3_ Q2N2222
r2 net-_q1-pad3_ net-_q2-pad1_ 15
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
r5 net-_q3-pad1_ net-_r1-pad2_ 510
r1 net-_q1-pad1_ net-_r1-pad2_ 510
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
* Control Statements

.ends MC1510_sub