.title kicad schematic

.include LM321.sub
.include D.lib
.include NPN.lib
.include PMOS-180nm.lib
x1 net-_c1-pad2_ net-_qn1-pad2_ vin net-_x1-pad4_ gnd LM321
* u2 vout plot_db
d1 vout vin 1N4148
mp3 vout net-_x1-pad4_ vin vin CMOSP W=100u L=100u M=1
c3 vout gnd 1u
r1 gnd net-_qn1-pad3_ 8k
qn2 net-_qn2-pad1_ net-_qn1-pad2_ net-_qn2-pad3_ Q2N2222
qn1 net-_qn1-pad1_ net-_qn1-pad2_ net-_qn1-pad3_ Q2N2222
r2 net-_qn1-pad3_ net-_qn2-pad3_ 2k
mp1 vin net-_qn2-pad1_ net-_qn1-pad1_ vin CMOSP W=100u L=100u M=1
mp2 vin net-_qn2-pad1_ net-_qn2-pad1_ vin CMOSP W=100u L=100u M=1
v1 vin gnd 5v
c2 vin gnd 1u
* u1 vin plot_db
c1 vout net-_c1-pad2_ 22p
r3 net-_c1-pad2_ vout 15k
r4 gnd net-_c1-pad2_ 10k
.tran 10e-09 1e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(vout)
plot db(vin)
.endc
.end
