* c:\fossee\esim\library\subcircuitlibrary\nand_gate_final\nand_gate_final.cir

.include D.lib
.include NPN.lib
q2 net-_q1-pad1_ net-_q1-pad2_ net-_q2-pad3_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
r1  net-_r1-pad1_ net-_q1-pad2_ 500
r2  net-_r1-pad1_ net-_q3-pad1_ 60k
r4  net-_q4-pad1_ net-_r1-pad1_ 10k
q4 net-_q4-pad1_ net-_q3-pad1_ net-_d1-pad1_ Q2N2222
q3 net-_q3-pad1_ net-_q1-pad1_ net-_q3-pad3_ Q2N2222
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q5 net-_d1-pad2_ net-_q3-pad3_ gnd Q2N2222
r3  net-_q3-pad3_ gnd 10k
* u1  net-_q1-pad3_ net-_q2-pad3_ net-_d1-pad2_ net-_r1-pad1_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
